Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old female who complains of ABDOMINAL 
PAIN. She had a URI symptoms for a week, and then three days of 
vomiting, diarrhea. One episode of bilious emesis, nonbloody,. 
nonblack. She has had some watery diarrhea. She has seen ___ x 2 then her PCP
for these symptoms. She was prescribed antiemetics which helped 
with the vomiting, but she has had ongoing abdominal pain, as 
well as temperature with Tmax 101.8. No urinary or vaginal 
symptoms. Has had ___ episodes since ___ with a colicky 
nature after eating a food like a hamburger, and it improved 
spontaneously. Today had semi-well formed stool.
 

 
Past Medical History:
none
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
PHYSICAL EXAMINATION:  upon admission: ___
Temp: 99.7 HR: 91 BP: 115/69 Resp: 16 O(2)Sat: 98 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and 
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nondistended, + RUQ TTP
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood
 
Physical Exam upon discharge:
VS: 98.3, 67, 99/60, 18, 99/RA
Gen: NAD, ambulating around room
Heent: EOMI, MMM
Cardiac: Normal S1, S2 RRR
Pulm: Lungs CTAB
Abdomen: Soft/nontender/nondistended
Ext: + pedal pulses No CCE
Neuro: AAOx4, normal mentation
 
Pertinent Results:
___ 06:20AM BLOOD WBC-9.0 RBC-3.28* Hgb-9.4* Hct-28.4* 
MCV-87 MCH-28.7 MCHC-33.2 RDW-12.7 Plt ___
___ 10:05PM BLOOD WBC-11.8* RBC-3.70* Hgb-10.7* Hct-31.7* 
MCV-86 MCH-29.0 MCHC-33.8 RDW-12.9 Plt ___
___ 10:05PM BLOOD Neuts-68.0 ___ Monos-6.2 Eos-3.6 
Baso-0.6
___ 06:20AM BLOOD Glucose-94 UreaN-12 Creat-0.5 Na-142 
K-4.2 Cl-108 HCO3-27 AnGap-11
___ 10:05PM BLOOD Glucose-148* UreaN-13 Creat-0.6 Na-139 
K-4.1 Cl-106 HCO3-25 AnGap-12
___ 10:05PM BLOOD ALT-33 AST-24 AlkPhos-86 TotBili-0.3
___ 06:20AM BLOOD Calcium-7.7* Phos-3.3 Mg-2.1

___:  gallbladder Ultrasound:

IMPRESSION:   
1. Findings consistent with acute cholecystitis.  
Cholelithiasis.   
  
2. Tiny calcified granuloma in the liver. 

 
Brief Hospital Course:
___ year old female admitted to the  hospital with 4 days of 
abdominal pain.  Upon admission, she was made NPO, given 
intravenous fluids, and underwent an ultra-sound of the abdomen 
which showed a thickened and edematous gallbladder wall with 
gallstones.  The patient was placed on intravenous antibiotics 
and a conservative approach to management was planned.  The 
patient was re-introduced to clear liquids and advanced to a 
regular diet.  Her vital signs have been stable and she has been 
afebrile.  Her abdominal pain has begun to resolve.  She was 
discharged home on HD #4 with stable vital signs and on a 10 day 
course of augmentin.  SA follow-up appointment was made with her 
primary care provider regarding her positive Hepatitis A screen 
as well as with the acute care service for discussion of 
interval cholecystectomy.
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain. You 
underwent an ultrasound of the abdomen which showed an 
inflammation of the gallbladder.  You were placed on bowel rest 
and started on antibiotics.  Your abdominal pain has been slowly 
resolving. You are now preparing for discharge home.  

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___